US07704996B2
Step 74.3: 2-Chloro-4-(spiro[2.5]oct-6-ylmethoxy)pyrimidine-5-carboxylic acid allyl ester
To a solution of the 2-chloro-4-(spiro[2.5]oct-6-ylmethoxy)pyrimidine-5-carboxylic acid (490 mg) in DMF (2.9 mL) are added K2CO3 (4.4 mmol) and allyl bromide (7.4 mmol) at room temperature. After stirring at 50° C. for 0.5 h, the reaction mixture is cooling and diluted with H2O. The mixture is extracted with AcOEt. The organic extracts are washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. The resulting residue is purified by silica gel column chromatography to give a crude title compound.

reactant | 2-chloro-4-(spiro[2.5]oct-6-ylmethoxy)pyrimidine-5-carboxylic acid | 490 mg | ClC1=NC=C(C(=N1)OCC1CCC2(CC2)CC1)C(=O)O | C14H17ClN2O3
reactant | K2CO3 | 4.4 mmol | C(=O)([O-])[O-].[K+].[K+]
reactant | allyl bromide | 7.4 mmol | C(C=C)Br | C3H5Br
solvent | DMF | 2.9 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 2-Chloro-4-(spiro[2.5]oct-6-ylmethoxy)pyrimidine-5-carboxylic acid allyl ester | C(C=C)OC(=O)C=1C(=NC(=NC1)Cl)OCC1CCC2(CC2)CC1 | C17H21ClN2O3
